US05385908
To a solution of diisopropyl amine (2.11 g, 25.86 mmol) in THF (50 mL) at 0° C. was added nBuLi (9.4 mL, 23.51 mmol, 2.5M in hexanes). This solution was stirred for 15 min at 0° C. and then cooled to -78° C. Ethyl-1-benzoyl-piperidine-2-carboxylate (6.16 g, 23.5 mmol) was added and the reaction was allowed to stir for 45 min at which time methyl iodide (3.34 g, 23.51 mmol) was added. The reaction was warmed to room temperature and gently warmed (~40° C.) for 2 h. The reaction was quenched with NaHCO3, extracted with ether, dried over Na2SO4 and concentrated to give ethyl-1-benzoyl-2-methyl-piperidine-2-carboxylate (6.49 g, 100% yield). 1H NMR (300 MHz, CDCl3) δ1.10 (m, 3H), 1.45 (s, 3H), 1.4-1.7 (comp m, 4H), 2.90 (m, 2H), 3.5 (m, 2H), 4.14 (m, 2H), 7.24 (m, 5H).

reactant | diisopropyl amine | 25.86 mmol, 2.11 g | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 23.51 mmol, 2.5M, 9.4 mL | [Li]CCCC
reactant | Ethyl-1-benzoyl-piperidine-2-carboxylate | 23.5 mmol, 6.16 g | C(C)OC(=O)C1N(CCCC1)C(C1=CC=CC=C1)=O | C15H19NO3
reactant | methyl iodide | 23.51 mmol, 3.34 g | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl-1-benzoyl-2-methyl-piperidine-2-carboxylate | 6.49 g, 100% yield | C(C)OC(=O)C1(N(CCCC1)C(C1=CC=CC=C1)=O)C | C16H21NO3
